US05672567
To a solution of 2.0 g of 3-mercapto-1,2,4-triazole in 80 ml THF at -78° C., 14.0 ml of a 2.5M solution of n-butyl lithium in hexane were added over a period of 10 minutes. The color of the reaction mixture changed to creamy yellow, then to white, half-way through the addition. Stirring was continued at -78° C. for 1 hour and then the temperature was allowed to rise to 0° C. and kept there for one hour. The reaction mixture was cooled again to -78° C. and 1.6 g of 2-trifluoromethylbenzaldehyde were added slowly. The color of the reaction mixture changed to yellow. The reaction mixture was allowed to warm to room temperature and stirred overnight. The resulting orange solution was cooled to 0° C. and about 1 ml of glacial acetic acid was added. A yellow precipitate formed, which was removed by filtration and put onto a silica gel column. Elution with hexane, then a 1:1 mixture of hexane and diethyl ether, and then diethyl ether yielded 1.1 g of 3-(1-hydroxy-2'-trifluoromethylbenzyl)-4-methyl-5-mercapto-1,2,4-triazole in the form of a white solid.

reactant | 3-mercapto-1,2,4-triazole | 2.0 g | SC1=NNC=N1 | C2H3N3S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-trifluoromethylbenzaldehyde | 1.6 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | acetic acid | about 1 ml | C(C)(=O)O | C2H4O2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-(1-hydroxy-2'-trifluoromethylbenzyl)-4-methyl-5-mercapto-1,2,4-triazole | 1.1 g | OC1(CC2=NN=C(N2C)S)C(C=CC=C1)C(F)(F)F | C11H12F3N3OS
